US04792208
4-Dimethylamino-4'-methylsulfonylstilbene
To a solution of 2.8 g (0.07 mol) of 60% sodium hydride dispersion, 7.46 g (0.05 mole) N,N-dimethylaminobenzaldehyde, and 100 mL of dry, freshly distilled 1,2-dimethoxyethane (DME) under nitrogen, at room temperature, was added 15.3 g (0.05 mole) diethyl 4-methylsulfonylbenzylphosphonate with vigorous stirring. The mixture immediately turned bright yellow. The mixture was heated at reflux for 2 hours. After cooling the very bright yellow solution was poured over 300 g of crushed ice under nitrogen blanket. The bright yellow solid was collected by filtration, washed with water, and air dried. Recrystallization from a 1:1 mixture of absolute ethanol and dry pyridine yielded 9.97 g (66%) of bright yellow crystals mp 242°-243° C.

reactant | sodium hydride | 0.07 mol, 2.8 g | [H-].[Na+]
reactant | N,N-dimethylaminobenzaldehyde | 0.05 mole, 7.46 g | CN(C)C1=C(C=O)C=CC=C1 | C9H11NO
reactant | diethyl 4-methylsulfonylbenzylphosphonate | 0.05 mole, 15.3 g | CS(=O)(=O)C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C12H19O5PS
reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 4-Dimethylamino-4'-methylsulfonylstilbene | 9.97 g, 66% | CN(C1=CC=C(C=C1)C=CC1=CC=C(C=C1)S(=O)(=O)C)C | C17H19NO2S
